US07851473B2
(1) 2,2,2-Trichloroethyl pyrimidin-2-ylcarbamate
To a solution of pyrimidine-2-amine (2.00 g, 21.0 mmol) and pyridine (5.10 ml, 63.0 mmol) in N,N-dimethylacetamide (50 ml) was added 2,2,2-trichloroethyl chloroformate (4.34 ml, 31.5 mmol) with ice-cooling, and the mixture was stirred for 40 minutes with ice-cooling. The reaction mixture was poured into ice-water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate and the desired product (2.57 g, 45.2%) as a solid was collected by filtration.

reactant | pyrimidine-2-amine | 21.0 mmol, 2.00 g | N1=C(N=CC=C1)N | C4H5N3
reactant | pyridine | 63.0 mmol, 5.10 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 31.5 mmol, 4.34 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 2,2,2-Trichloroethyl pyrimidin-2-ylcarbamate | N1=C(N=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
